US04629739
N-[2-((2-(3,4-Dimethoxyphenyl)ethyl)amino)ethyl]-4-[(methylsulfonyl)amino]-benzamide hydrochloride
In a manner similar to Example XVII, react 4-[(methylsulfonyl)amino]benzoyl chloride with N-[2-(3,4-dimethoxyphenyl)ethyl]-1,2-ethanediamine to obtain the title compound.

reactant | 4-[(methylsulfonyl)amino]benzoyl chloride | CS(=O)(=O)NC1=CC=C(C(=O)Cl)C=C1 | C8H8ClNO3S
reactant | N-[2-(3,4-dimethoxyphenyl)ethyl]-1,2-ethanediamine | COC=1C=C(C=CC1OC)CCNCCN | C12H20N2O2
product | N-[2-((2-(3,4-Dimethoxyphenyl)ethyl)amino)ethyl]-4-[(methylsulfonyl)amino]-benzamide hydrochloride | Cl.COC=1C=C(C=CC1OC)CCNCCNC(C1=CC=C(C=C1)NS(=O)(=O)C)=O | InChI=1S/C20H27N3O5S.ClH/c1-27-18-9-4-15(14-19(18)28-2)10-11-21-12-13-22-20(24)16-5-7-17(8-6-16)23-29(3,25)26;/h4-9,14,21,23H,10-13H2,1-3H3,(H,22,24);1H
